US06261738B1
27 g (65.1 mmol) of 2,2,2-trifluoro-1-(4-hexadecyloxyphenyl)-ethanone are dissolved in 100 ml of ethanol. To the solution are added 4.5 g (65.1 mmol) of hydroxylammonium chloride and 12.9 g (163 mmol) of pyridine. The reaction mixture is refluxed for 4 hours, and the solvent is distilled off by a rotary evaporator. The residue is poured into water, and extracted with ethyl acetate. The organic phase is washed with potassium hydrogen sulfate aqueous solution, water, and brine, dried over MgSO4, and concentrated. The residue is purified by recrystallization from hexane/toluene, yielding 13.5 g of 2,2,2-trifluoro-1-(4-hexadecyloxyphenyl)-ethanone oxime as a beige solid with a melting point of 76-80° C. The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ[ppm]: 0.88 (t, 3H), 1.20-1.40 (m, 24H), 1.40-1.50 (m, 2H), 1.75-1.84 (m, 2H), 3.96-4.02 (m, 2H), 6.89(E)/6.95(Z) (d, 2H), 7.43(E)/7.52(Z) (d, 2H), 8.28(Z)/8.43(E) (br s, 1H). The signals are tentatively assigned to the E- and Z-conformations. The spectrum indicates that the compound is a mixture of E- and Z-isomers. The ratio of the mixture is estimated to be E:Z=7:3.

reactant | 2,2,2-trifluoro-1-(4-hexadecyloxyphenyl)-ethanone | 65.1 mmol, 27 g | FC(C(=O)C1=CC=C(C=C1)OCCCCCCCCCCCCCCCC)(F)F | C24H37F3O2
reactant | hydroxylammonium chloride | 65.1 mmol, 4.5 g | [Cl-].O[NH3+]
reactant | pyridine | 163 mmol, 12.9 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,2,2-trifluoro-1-(4-hexadecyloxyphenyl)-ethanone oxime | 13.5 g | FC(C(=NO)C1=CC=C(C=C1)OCCCCCCCCCCCCCCCC)(F)F | C24H38F3NO2
